US07759337B2
Synthesis of 3-(1-(2-(aminocarbonyl)phenyl)-6-phthalazinyl)-N-cyclopropyl-4-methylbenzamide
The title compound was prepared by a method analogous to that described in Example 11 (Method D), using a mixture of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.111 g, 0.33 mmol), 2-cyanophenylboronic acid (0.211 g, 1.4 mmol), potassium carbonate (0.400 g, 2.9 mmol) and trans-dichlorobis(triphenyl-phosphine)palladium (II) (0.017 g, 0.024 mmol) in 1.4 mL DME/0.6 mL H2O/0.4 mL EtOH, which was heated at 120° C. for 15 min. The mixture was partitioned between ethyl acetate/brine and the aqueous layer was extracted with ethyl acetate (3×). The combined organics were evaporated onto silica gel and purified using flash chromatography eluting with 2M NH3 in MeOH:CH2Cl2 (0:1→7:93) to afford the title compound as an amorphous white solid. Found MS m/z: 423 [M+1].

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 0.33 mmol, 0.111 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | 2-cyanophenylboronic acid | 1.4 mmol, 0.211 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | potassium carbonate | 2.9 mmol, 0.400 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 1.4 mL | COCCOC | C4H10O2
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium (II) | 0.024 mmol, 0.017 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1-(2-(aminocarbonyl)phenyl)-6-phthalazinyl)-N-cyclopropyl-4-methylbenzamide | NC(=O)C1=C(C=CC=C1)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C26H22N4O2
